US05342846
1-Cyclopropyl-6,8-difluoro-7-[3-(4-carboxy-1,2,3-triazol -1-yl]pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (140 mg, 0.49 mmol), 3-(4-carboxy-1,2,3-triazol-1-yl)pyrrolidine hydrochloride (269 mg, 1.23 mmol) and diazobicycloundecane (187 mg, 1.23 mmol) in acetonitrile (5 ml) was heated at 80°-90° C. for four days. The reaction mixture was concentrated, diluted with water (10 ml) and pH brought down to 4.0 using 1M HCl. The separated solid was filtered and washed with water and crystallized from MeOH/ether to yellow solid. Yield 29 mg (13.2%), m.p. 222°-225° C. 1H NMR (CDCl3 +CD3OD) δ: 1.11-1.42 (m, 4H), 3.88-4.30 (m, 4H), 4.40-4.48 (m, 1H), 5.35-5.55 (m, 1H), 7.8 (d, 1H), 8.41 (s, 1H), 8.79 (s, 1H).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.49 mmol, 140 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(4-carboxy-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 1.23 mmol, 269 mg | Cl.C(=O)(O)C=1N=NN(C1)C1CNCC1
reactant | diazobicycloundecane | 1.23 mmol, 187 mg | [N+](=[N-])=C1C(CCCCCCCCC1)C1CCCCCCCCCC1 | C22H40N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6,8-difluoro-7-[3-(4-carboxy-1,2,3-triazol -1-yl]pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=NC(=C1)C(=O)O)F)=O)C(=O)O | C20H17F2N5O5
